US08865712B2
d) [(RS)-1-(6-Bromo-pyridin-2-yl)-2-((R)-1-carbamoyl-2,2,2-trifluoro-1-methyl-ethoxy)-1-methyl-ethyl]-carbamic acid tert-butyl ester
A solution of (R)-2-[(RS)-2-(6-bromo-pyridin-2-yl)-2-tert-butoxycarbonylamino-propoxy]-3,3,3-tri-fluoro-2-methyl-propionic acid ethyl ester (3.0 g, 6.01 mmol) in 7N NH3/MeOH (6.5 ml) was stirred in a sealed glass vial at 55° C. for 72 h. The reaction mixture was concentrated to leave the title compound as a colourless solid that was used in the next step without further purification. HPLC RtH4=1.12, 1.14 min (diastereomers); ESIMS: 470, 472 [(M+H)+].

reactant | (R)-2-[(RS)-2-(6-bromo-pyridin-2-yl)-2-tert-butoxycarbonylamino-propoxy]-3,3,3-tri-fluoro-2-methyl-propionic acid ethyl ester | 6.01 mmol, 3.0 g | C(C)OC([C@@](C(F)(F)F)(C)OCC(C)(NC(=O)OC(C)(C)C)C1=NC(=CC=C1)Br)=O | C19H26BrF3N2O5
reactant | NH3 MeOH | 7N, 6.5 ml | N.CO
product | [(RS)-1-(6-Bromo-pyridin-2-yl)-2-((R)-1-carbamoyl-2,2,2-trifluoro-1-methyl-ethoxy)-1-methyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CO[C@](C(F)(F)F)(C)C(N)=O)(C)C1=NC(=CC=C1)Br)=O | C17H23BrF3N3O4
